// Generated for: spectre
// Generated on: Jul  5 20:45:11 2022
// Design library name: my_gm_lib
// Design cell name: tb_test
// Design view name: schematic
simulator lang=spectre
global 0 vss! vcc!
parameters l5 w5 l4 w4 l1 w1 l0 w0 l3 w3 l2 w2
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=tt
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=tt_3v
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=tt_na
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=tt_3vna
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=tt_m
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=tt_3m
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=tt_bip
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=tt_bip3
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=dio
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=dio3
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=dio_dnw
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=tt_res
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=tt_mim
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=tt_rfmos
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=tt_rfmos33
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=tt_rfmim
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=tt_rfind
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=tt_rfmvar
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=tt_rfjvar
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=tt_rfres_sa
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=tt_rfres_rpo
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=tt_rfres_hri
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=tt_rfesd
include "/apps/share/gm_id_mapping/tsmc18rf/1p6m/tsmc18rf/../models/spectre/rf018.scs" section=tt_bbmvar

// Library name: my_gm_lib
// Cell name: gm_positive_diff
// View name: schematic
subckt gm_positive_diff vdd vin vip vo vss
    M5 (vb vb vss vss) nch l=l5 w=w5 m=1 \
        ad=(w5*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*int(1/2))*(int((1+2)/2)-int((1+1)/2))))/1 \
        as=(w5*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2))))/1 \
        pd=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2))))*(int((1+2)/2)-int((1+1)/2))))*w5+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*int(1/2))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        ps=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0-0))*(int((1+2)/2)-int((1+1)/2))))*w5+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        nrd=(5.4e-07+2.7e-07*(1*2-2))/1/(w5*2) \
        nrs=(5.4e-07+2.7e-07*(1*2-2))/1/(w5*2)
    M4 (net4 vb vss vss) nch l=l4 w=w4 m=1 \
        ad=(w4*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*int(1/2))*(int((1+2)/2)-int((1+1)/2))))/1 \
        as=(w4*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2))))/1 \
        pd=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2))))*(int((1+2)/2)-int((1+1)/2))))*w4+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*int(1/2))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        ps=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0-0))*(int((1+2)/2)-int((1+1)/2))))*w4+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        nrd=(5.4e-07+2.7e-07*(1*2-2))/1/(w4*2) \
        nrs=(5.4e-07+2.7e-07*(1*2-2))/1/(w4*2)
    M1 (net5 vin net4 net4) nch l=l1 w=w1 m=1 \
        ad=(w1*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*int(1/2))*(int((1+2)/2)-int((1+1)/2))))/1 \
        as=(w1*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2))))/1 \
        pd=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2))))*(int((1+2)/2)-int((1+1)/2))))*w1+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*int(1/2))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        ps=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0-0))*(int((1+2)/2)-int((1+1)/2))))*w1+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        nrd=(5.4e-07+2.7e-07*(1*2-2))/1/(w1*2) \
        nrs=(5.4e-07+2.7e-07*(1*2-2))/1/(w1*2)
    M0 (vo vip net4 net4) nch l=l0 w=w0 m=1 \
        ad=(w0*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*int(1/2))*(int((1+2)/2)-int((1+1)/2))))/1 \
        as=(w0*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2))))/1 \
        pd=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2))))*(int((1+2)/2)-int((1+1)/2))))*w0+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*int(1/2))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        ps=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0-0))*(int((1+2)/2)-int((1+1)/2))))*w0+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        nrd=(5.4e-07+2.7e-07*(1*2-2))/1/(w0*2) \
        nrs=(5.4e-07+2.7e-07*(1*2-2))/1/(w0*2)
    M3 (net5 net5 vdd vdd) pch l=l3 w=w3 m=1 \
        ad=(w3*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*int(1/2))*(int((1+2)/2)-int((1+1)/2))))/1 \
        as=(w3*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2))))/1 \
        pd=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2))))*(int((1+2)/2)-int((1+1)/2))))*w3+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*int(1/2))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        ps=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0-0))*(int((1+2)/2)-int((1+1)/2))))*w3+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        nrd=(5.4e-07+2.7e-07*(1*2-2))/1/(w3*2) \
        nrs=(5.4e-07+2.7e-07*(1*2-2))/1/(w3*2)
    M2 (vo net5 vdd vdd) pch l=l2 w=w2 m=1 \
        ad=(w2*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*int(1/2))*(int((1+2)/2)-int((1+1)/2))))/1 \
        as=(w2*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2))))/1 \
        pd=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2))))*(int((1+2)/2)-int((1+1)/2))))*w2+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*int(1/2))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        ps=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0-0))*(int((1+2)/2)-int((1+1)/2))))*w2+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        nrd=(5.4e-07+2.7e-07*(1*2-2))/1/(w2*2) \
        nrs=(5.4e-07+2.7e-07*(1*2-2))/1/(w2*2)
    I2 (vdd vb) isource dc=1u type=dc
ends gm_positive_diff
// End of subcircuit definition.

// Library name: my_gm_lib
// Cell name: gm_positive_mid
// View name: schematic
subckt gm_positive_mid vdd vi vo vss
    M2 (vb vb vss vss) nch l=l5 w=w5 m=1 \
        ad=(w5*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*int(1/2))*(int((1+2)/2)-int((1+1)/2))))/1 \
        as=(w5*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2))))/1 \
        pd=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2))))*(int((1+2)/2)-int((1+1)/2))))*w5+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*int(1/2))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        ps=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0-0))*(int((1+2)/2)-int((1+1)/2))))*w5+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        nrd=(5.4e-07+2.7e-07*(1*2-2))/1/(w5*2) \
        nrs=(5.4e-07+2.7e-07*(1*2-2))/1/(w5*2)
    M0 (vo vb vss vss) nch l=l0 w=w0 m=1 \
        ad=(w0*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*int(1/2))*(int((1+2)/2)-int((1+1)/2))))/1 \
        as=(w0*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2))))/1 \
        pd=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2))))*(int((1+2)/2)-int((1+1)/2))))*w0+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*int(1/2))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        ps=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0-0))*(int((1+2)/2)-int((1+1)/2))))*w0+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        nrd=(5.4e-07+2.7e-07*(1*2-2))/1/(w0*2) \
        nrs=(5.4e-07+2.7e-07*(1*2-2))/1/(w0*2)
    M1 (vo vi vdd vdd) pch l=l1 w=w1 m=1 \
        ad=(w1*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*int(1/2))*(int((1+2)/2)-int((1+1)/2))))/1 \
        as=(w1*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2))))/1 \
        pd=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2))))*(int((1+2)/2)-int((1+1)/2))))*w1+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*int(1/2))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        ps=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0-0))*(int((1+2)/2)-int((1+1)/2))))*w1+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        nrd=(5.4e-07+2.7e-07*(1*2-2))/1/(w1*2) \
        nrs=(5.4e-07+2.7e-07*(1*2-2))/1/(w1*2)
    I0 (vdd vb) isource dc=1u type=dc
ends gm_positive_mid
// End of subcircuit definition.

// Library name: my_gm_lib
// Cell name: tb_test
// View name: schematic
I0 (vcc! net7 net6 net8 vss!) gm_positive_diff
I1 (vcc! net8 net5 vss!) gm_positive_mid
V1 (net6 vss!) vsource type=dc
V0 (net7 vss!) vsource type=dc
C0 (net5 vss!) capacitor c=1p
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub